US08222416B2
A mixture of 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (2.5 g, 5.89 mmol) and 10% palladium on activated carbon (900 mg) in methanol (600 mL) was heated at 50° C. under 50 bar of hydrogen in a steel bomb for 5 h. The mixture was cooled to 25° C., the solids filtered off, washed with ethyl acetate and concentrated in vacuo to afford 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (1.7 g, 68%) as a white solid which was used without further purification: LC/MS m/e calcd for C23H26N2O4S [M+H]+ 427.54, observed 426.8; 1H NMR (400 MHz, CDCl3) δ ppm 10.81 (br. s., 1H), 8.79 (br. s., 1H), 8.56 (s, 1H), 7.88-7.93 (m, J=8.3 Hz, 2H), 7.48-7.53 (m, J=8.1 Hz, 2H), 6.48 (s, 1H), 5.31 (s, 1H), 4.30 (t, J=7.7 Hz, 1H), 3.99 (s, 3H), 3.03 (s, 3H), 2.12-2.33 (m, 2H), 1.59-1.86 (m, 4H), 1.45-1.56 (m, 2H), 1.15-1.29 (m, 2H).

reactant | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 5.89 mmol, 2.5 g | COC(=O)C=1C=C2C(=NC1)NC(=C2)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C23H24N2O4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 900 mg | [Pd] | Pd
solvent | methanol | 600 mL | CO | CH4O
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 1.7 g, 68% | COC(=O)C=1C=C2C(=NC1)NC(=C2)C(CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C23H26N2O4S
